US05283248
4-(Benzylamino)-1-cyclopropyl-5,7-difluoro-6-(4-methyl-1-piperazinyl)-2-benzimidazoleacetamide (4.4 g, 9.7 mmol) and O-benzyl-hydroxylamine hydrochloride (6.2 g, 38.8 mmol) are suspended in water-ethanol (1:1; 100 ml) and warmed to 60° C. for two days. After cooling, the pH is adjusted to 5-6 with saturated aqueous sodium bicarbonate solution and the resulting solution extracted with ethyl acetate. The combined organic layers are dried (magnesium sulfate), concentrated and chromatographed on silica gel (eluent: 5% then 15% methanol-dichloromethane), affording 2.6 g of 2-[7-benzylamino-1-cyclopropyl-4.6-difluoro-5-(4-methyl-piperazin-1-yl)-1H-benzimidazol-2-yl]-N-benzyloxy-acetamide (48%): NMR (CDCl3): 1.04 (m,4H),2.42(s,3H),2.65 (m,4H), 3.27 (m,5H), 3.93(s,2H),4.67(s,2H),4.89(s,2H),7.20-7.39(m,10H), 10.47(s,1H).

reactant | 4-(Benzylamino)-1-cyclopropyl-5,7-difluoro-6-(4-methyl-1-piperazinyl)-2-benzimidazoleacetamide | 9.7 mmol, 4.4 g | C(C1=CC=CC=C1)NC1=C(C(=C(C=2N(C(=NC21)CC(=O)N)C2CC2)F)N2CCN(CC2)C)F | C24H28F2N6O
reactant | O-benzyl-hydroxylamine hydrochloride | 38.8 mmol, 6.2 g | Cl.C(C1=CC=CC=C1)ON
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water ethanol | 100 ml | O.C(C)O
product | 2-[7-benzylamino-1-cyclopropyl-4.6-difluoro-5-(4-methyl-piperazin-1-yl)-1H-benzimidazol-2-yl]-N-benzyloxy-acetamide | 2.6 g, 48% | C(C1=CC=CC=C1)NC1=C(C(=C(C2=C1N(C(=N2)CC(=O)NOCC2=CC=CC=C2)C2CC2)F)N2CCN(CC2)C)F | C31H34F2N6O2
